US06028195
c) 4,5-Dimethyl-2-methoxyaniline
Tetrahydrofuran(100 ml) and ethanol(40 ml) were added into 4,5-dimethyl-2-nitroanisole(7.80 g, 0.043 mol) and then added 10% Pd/activated carbon(0.57 g) slowly, hydrogenated for 5 hrs. The reaction was completed by the same way with the above and the resulting product was purified by column chromatography to obtain the titled compound.

reactant | Tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 4,5-dimethyl-2-nitroanisole | 0.043 mol, 7.80 g | CC1=CC(=C(C=C1C)OC)[N+](=O)[O-] | C9H11NO3
catalyst | Pd | 0.57 g | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4,5-Dimethyl-2-methoxyaniline | yield: 82% | CC1=CC(=C(N)C=C1C)OC | C9H13NO
